US07576099B2
(6-Nitro-3H-imidazo[4,5-b]pyridin-2-yl)-methanol
Solid 2,3-Diamino-5-nitropyridine (prepared according to J. Med. Chem. 1997, 40, 3679-3686; 610 mg, 0.0040 mol) and solid glycolic acid (750 mg, 0.0099 mol) were combined in a sealed tube (left open) and heated to 145° C. and stirred for approx. 30-45 min (solid fuses together, liquifies then re-solidifies). After allowing to cool to rt the solid was extracted with 1N HCl. The aqueous mixture was concentrated under vacuum to leave a crude solid that was basified using conc. NH4OH solution. The ammonia solution was concentrated under vacuum to leave a crude solid that was dry-loaded on to silica and purified by column chromatography (using the ISCO system) to give a solid (450 mg) that was used directly in the next step.

reactant | 2,3-Diamino-5-nitropyridine | 0.0040 mol, 610 mg | NC1=NC=C(C=C1N)[N+](=O)[O-] | C5H6N4O2
reactant | glycolic acid | 0.0099 mol, 750 mg | C(CO)(=O)O | C2H4O3
reactant | NH4OH | [NH4+].[OH-]
product | (6-Nitro-3H-imidazo[4,5-b]pyridin-2-yl)-methanol | 450 mg | [N+](=O)([O-])C=1C=C2C(=NC1)NC(=N2)CO | C7H6N4O3
